US03957819
10-(m-Chlorophenyl)-2,3,4,10-tetrahydropyrimido[1,2-a]indol-10-ol
3-(m-Chlorophenyl)-2-(3-chloropropylamino)-3H-indol-3-ol hydrochloride (0.742 g.) was dissolved in methanol (10 ml.) containing sodium methoxide (0.27 g.) and left at room temperature for 64 hours. The solution was evaporated to a foam which was triturated with water. The product was isolated as a white powder (546 mg.), m.p. 186°-187°C. Recrystallisation from acetonitrile raised the melting point to 190°-192°C.

reactant | 3-(m-Chlorophenyl)-2-(3-chloropropylamino)-3H-indol-3-ol hydrochloride | 0.742 g | Cl.ClC=1C=C(C=CC1)C1(C(=NC2=CC=CC=C12)NCCCCl)O
reactant | sodium methoxide | 0.27 g | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 10-(m-Chlorophenyl)-2,3,4,10-tetrahydropyrimido[1,2-a]indol-10-ol | ClC=1C=C(C=CC1)C1(C=2N(C=3C=CC=CC13)CCCN2)O | C17H15ClN2O
